US07618975B2
(2-Chloro-quinazolin-4-yl)-(4-hydroxyphenyl)-methylamine
To a solution of (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine (100 mg, 0.334 mmol) in 30 ml dichloromethane cooled at −20° C. was added slowly 60 μl of BBr3 (0.668 mmol). The reaction mixture was stirred at −20° C. for 2 h then it was warmed to room temperature. It was stirred another 2 h at this temperature. The reaction mixture was diluted with ethyl acetate (50 ml) and washed with cold 5% sodium bicarbonate. The organic phase was dried and concentrated. The residue was purified by a small silica column using ethyl acetate and hexane (1:3) as eluents to give the product (57 mg, 57%). 1H NMR (CDCl3): 7.65-7.56 (m, 2H), 7.04-6.87 (m, 5H), 3.59 (s, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.334 mmol, 100 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | BBr3 | 0.668 mmol, 60 μl | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (2-Chloro-quinazolin-4-yl)-(4-hydroxyphenyl)-methylamine | 57 mg, 57% | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)O | C15H12ClN3O
